US09447090B2
To a solution of 100 mg of (3S)-3-({[8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridin-3-yl]carbonyl}amino)-3-phenylpropanoic acid in 1 mL of DMF was added 43 mg of 1,1′-carbonyldiimidazole, followed by stirring for 30 minutes. To the reaction solution were added 24 mg of methanesulfonamide and 0.039 mL of 1,8-diazabicyclo[5.4.0]-7-undecene, followed by stirring for 5 hours. To the reaction mixture were added 1 M hydrochloric acid and ethyl acetate to carry out a layer separation operation. The obtained organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography. To the purified product were added ethyl acetate and hexane, and the resulting solid was collected by filtration and dried to obtain 41 mg of 8-(cyclohexylmethoxy)-2-methyl-N-{(1S)-3-[(methylsulfonyl)amino]-3-oxo-1-phenylpropyl}imidazolo[1,2-a]pyridine-3-carboxamide.

reactant | (3S)-3-({[8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridin-3-yl]carbonyl}amino)-3-phenylpropanoic acid | 100 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CC(=O)O)C2=CC=CC=C2 | C25H29N3O4
reactant | 1,1′-carbonyldiimidazole | 43 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 24 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.039 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(cyclohexylmethoxy)-2-methyl-N-{(1S)-3-[(methylsulfonyl)amino]-3-oxo-1-phenylpropyl}imidazolo[1,2-a]pyridine-3-carboxamide | 41 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CC(=O)NS(=O)(=O)C)C2=CC=CC=C2 | C26H32N4O5S
